US09399640B2
Step 1. 5-Bromo-1,4-dimethyl-3-nitropyridin-2(1H)-one
A solution of 5-bromo-4-methyl-3-nitropyridin-2-ol (15.00 g, 64.37 mmol) [Combi-Blocks, AN-1086] in N,N-dimethylformamide (250 mL) was treated with sodium hydride (3.09 g, 77.3 mmol) (60% dispersion on mineral oil) slowly and portionwise, and stirred at RT for 30 min. The reaction mixture was treated with methyl iodide (4.81 mL, 77.2 mmol) dropwise and stirred at RT for 3 h. LCMS indicated a clean peak for methylated product. The reaction mixture was poured over water/ice (˜400 mL) and allowed to stir while the ice melted. The aqueous mixture was extracted with ethyl acetate. The organic layer was washed with water (3×) and brine, dried with magnesium sulfate, filtered, and concentrated to give the desired product (14.9 g, 93%) that was used without further purification. LCMS calculated for C7H8BrN2O3 (M+H)+: m/z=247.0, 249.0. found: 247.0, 248.9.

reactant | 5-bromo-4-methyl-3-nitropyridin-2-ol | 64.37 mmol, 15.00 g | BrC=1C(=C(C(=NC1)O)[N+](=O)[O-])C | C6H5BrN2O3
reactant | sodium hydride | 77.3 mmol, 3.09 g | [H-].[Na+]
reactant | methyl iodide | 77.2 mmol, 4.81 mL | CI | CH3I
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-1,4-dimethyl-3-nitropyridin-2(1H)-one | 14.9 g, 93% | BrC=1C(=C(C(N(C1)C)=O)[N+](=O)[O-])C | C7H7BrN2O3
